US07728025B2
(Step 2) Production of N-(3-fluoro-4-pyrrolidin-2-ylphenyl)pyrazine-2-carboxamide dihydrochloride
50 ml of 4 N hydrochloric acid-dioxane solution was added to a methanol (50 ml) solution of 4.4 g of t-butyl 2-(2-fluoro-4-((pyrazin-2-ylcarbonyl)amino)phenyl)pyrrolidine-1-carboxylate, and the reaction liquid was stirred at room temperature for 1 hour. The solvent was evaporated away under reduced pressure to obtain the entitled compound as a yellow solid.

reactant | hydrochloric acid dioxane | 4 N, 50 ml | Cl.O1CCOCC1
reactant | t-butyl 2-(2-fluoro-4-((pyrazin-2-ylcarbonyl)amino)phenyl)pyrrolidine-1-carboxylate | 4.4 g | FC1=C(C=CC(=C1)NC(=O)C1=NC=CN=C1)C1N(CCC1)C(=O)OC(C)(C)C | C20H23FN4O3
solvent | methanol | 50 ml | CO | CH4O
product | N-(3-fluoro-4-pyrrolidin-2-ylphenyl)pyrazine-2-carboxamide dihydrochloride | Cl.Cl.FC=1C=C(C=CC1C1NCCC1)NC(=O)C1=NC=CN=C1 | InChI=1S/C15H15FN4O.2ClH/c16-12-8-10(3-4-11(12)13-2-1-5-18-13)20-15(21)14-9-17-6-7-19-14;;/h3-4,6-9,13,18H,1-2,5H2,(H,20,21);2*1H
